US06437184B1
To a mixture of 0.15 g of 4′-(trifluoromethyl)acetophenone and 10 ml of pyridine was added 0.30 g of O-(4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyl)hydroxylamine hydrochloride. After stirring at room temperature for 1 hour, the reaction mixture was poured into 5% aqueous citric acid solution, and extracted twice with ethyl acetate. The ethyl acetate layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to silica gel chromatography, which afforded 0.30 g (yield, 75.5%) of 4′-(trifluoromethyl)acetophenone O-(4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyl)oxime, nD21.5 1.5420.

reactant | 4′-(trifluoromethyl)acetophenone | 0.15 g | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
reactant | O-(4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyl)hydroxylamine hydrochloride | 0.30 g | Cl.ClC1=C(OCCCCON)C(=CC(=C1)OCC=C(Cl)Cl)Cl
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4′-(trifluoromethyl)acetophenone O-(4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyl)oxime | 0.30 g, 75.5% | ClC1=C(OCCCCON=C(C)C2=CC=C(C=C2)C(F)(F)F)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C22H20Cl4F3NO3
